US07598383B2
Step D: Preparation of 2-acetyl-4-chloro-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid:
To a solution of 2-acetyl-4-chloro-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethyl ester (1.00 equivalent) in THF:water (4:1) is added 1 M aqueous LiOH solution (2.05 equivalents). After 30 minutes, the reaction mixture is acidified to pH ˜1 with 1 N HCl solution and extracted with ethyl acetate. The combined organic extracts are dried (MgSO4) and concentrated under reduced pressure to give the desired product which is used directly without further purification.

reactant | 2-acetyl-4-chloro-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethyl ester | 1.00 equivalent | C(C)OC(=O)C1=C(N(C(C(=C1Cl)C)=O)C)C(C)=O | C12H14ClNO4
reactant | LiOH | 1 M, 2.05 equivalents | [Li+].[OH-]
reactant | HCl | 1 N | Cl | ClH
solvent | THF water | C1CCOC1.O
product | 2-acetyl-4-chloro-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid | C(C)(=O)C=1N(C(C(=C(C1C(=O)O)Cl)C)=O)C | C10H10ClNO4
